US04623662
A solution of 825 mg of phenyl-N-(4-chloro-2,6-dimethylphenyl]carbamate and 740 mg of N-[3,3-dimethylbutyl]-4-n-butylbenzenemethanamine in 40 ml of toluene was refluxed for 1 hour, cooled, and the solution was washed with 1N sodium hydroxide, brine, dried, and evaporated to dryness to yield a solid. The solid was recrystallized from hexane to yield 1-[(4-butylphenyl)methyl]-1-[3,3-dimethylbutyl]-3-[4-chloro-2,6-dimethylphenyl]urea as a white solid, mp 138°-139° C.

reactant | phenyl-N-(4-chloro-2,6-dimethylphenyl]carbamate | 825 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1C)Cl)C)=O | C15H14ClNO2
reactant | N-[3,3-dimethylbutyl]-4-n-butylbenzenemethanamine | 740 mg | CC(CCNCC1=CC=C(C=C1)CCCC)(C)C | C17H29N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(4-butylphenyl)methyl]-1-[3,3-dimethylbutyl]-3-[4-chloro-2,6-dimethylphenyl]urea | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1C)Cl)C)CCC(C)(C)C | C26H37ClN2O
